US05179125
(1) Preparation of 3-(t-Butyloxycarbonylamino)-benzoic acid
3-Aminobenzoic acid (13.7 g) is mixed with water (100 ml), and the mixture is adjusted to pH 9.5 with 20% aqueous sodium hydroxide solution. To the mixture is added a solution of di-t-butyl dicarbonate (25 g) in dioxane (80 ml) with stirring under ice cooling. The mixture is stirred under ice cooling for 30 minutes and further at room temperature for 4 hours. The reaction mixture is washed with ethyl acetate (200 ml). The aqueous solution is adjusted to pH 5.0 with citric acid, and the precipitated crystals are separated by filtration and recrystallized from acetonitrile to give the title compound (22.1 g, 93%) as white needles.

reactant | 3-Aminobenzoic acid | 13.7 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 3-(t-Butyloxycarbonylamino)-benzoic acid | 22.1 g, 93% | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
